US07960376B2
Step 3: Preparation of 4-(2-chloroethylthio)-N-isobutyl-3-nitrobenzamide
To a biphasic solution of 4-(2-chloroethylthio)-3-nitrobenzoyl chloride (2.331 g, 8.32 mmol) in dichloromethane (75 mL) and saturated aqueous NaHCO3 (75 mL) was added isobutylamine (1.043 mL, 10.40 mmol). The reaction was allowed to stir for 16 hours. TLC and LCMS analysis of the reaction mixture indicated consumption of starting material. The reaction mixture was diluted with H2O (100 mL) and extracted with DCM (4×50 mL). The combined organics were dried over Na2SO4 and concentrated in vacuo. The product, 4-(2-chloroethylthio)-N-isobutyl-3-nitrobenzamide, was used without further purification. Product yield was assumed to be 100% (2.64 g, 8.32 mmol) for future calculations. LCMS (+ESI) m/z=317.13 [M+H]+.

reactant | 4-(2-chloroethylthio)-3-nitrobenzoyl chloride | 8.32 mmol, 2.331 g | ClCCSC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C9H7Cl2NO3S
reactant | isobutylamine | 10.40 mmol, 1.043 mL | C(C(C)C)N | C4H11N
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | 75 mL | C(=O)(O)[O-].[Na+]
product | 4-(2-chloroethylthio)-N-isobutyl-3-nitrobenzamide | ClCCSC1=C(C=C(C(=O)NCC(C)C)C=C1)[N+](=O)[O-] | C13H17ClN2O3S
